US06656947B2
2-[(4-(5-Fluoro-1H-indol-3-yl)-3,6-dihydropyridin-1(2H)-yl)methyl]-2,3-dihydro[1,4]dioxino[2,3-f]quinazoline
(2R)-2,3-Dihydro-1,4-dioxino[2,3-f]quinazolin-2-ylmethyl-4-methylbenzenesulfonate (800 mg, 3.7 mmole) was dissolved in a mixture of DMF/THF 1:1 v/v (30 mL) and 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (800 mg, 4 mmole) added, followed by the addition of sodium bicarbonate (1.0 gm, 9.4 mmole) and the mixture was refluxed under nitrogen for 18 hours. The solvent was evaporated under vacuum and the residue partitioned between methylene chloride and water. The organic phase was separated, washed with water and saturated sodium chloride solution, dried over magnesium sulfate and evaporated to a foam. Treatment of this foam with 3% methanol in chloroform yielded 320 mg (35%) of the (S)-enantiomer of the title compound as a yellow crystalline hemihydrate, m.p. 233-235° C.

reactant | (2R)-2,3-Dihydro-1,4-dioxino[2,3-f]quinazolin-2-ylmethyl-4-methylbenzenesulfonate | 3.7 mmole, 800 mg | O1[C@H](COC=2C1=C1C=NC=NC1=CC2)COS(=O)(=O)C2=CC=C(C=C2)C | C18H16N2O5S
reactant | 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 4 mmole, 800 mg | FC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13FN2
reactant | sodium bicarbonate | 9.4 mmole, 1.0 gm | C([O-])(O)=O.[Na+]
solvent | DMF THF | CN(C)C=O.C1CCOC1
product | 2-[(4-(5-Fluoro-1H-indol-3-yl)-3,6-dihydropyridin-1(2H)-yl)methyl]-2,3-dihydro[1,4]dioxino[2,3-f]quinazoline | FC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)CC1COC=2C(=C3C=NC=NC3=CC2)O1 | C24H21FN4O2
